US04892872
A solution of 4.28 g of 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid in 50 ml of tetrahydrofuran is cooled to below 0° C. and 5 ml of triethylamine is added under stirring thereto. Further, 2.0 g of ethyl chlorocarbonate is added and the mixture is stirred for 30 minutes. To the resultant mixture is added 3.0 g of 3-aminoquinuclidine and the mixture stirred for 5 hours. After completion of the reaction, aqueous sodium hydrogen carbonate and ethyl acetate are added. The organic layer is separated, washed with water and dried over magnesium sulfate. The solvent is distilled off and the residue is converted into the corresponding hydrochloride by treating with ethanolic hydrochloric acid followed by recrystallizing from ethanolethyl acetate to give 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride, melting at 286°-289° C.

reactant | 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 4.28 g | ClC=1C=C(C2=C(N(C(C(O2)C)=O)C)C1)C(=O)O | C11H10ClNO4
reactant | ethyl chlorocarbonate | 2.0 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-aminoquinuclidine | 3.0 g | NC1CN2CCC1CC2 | C7H14N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride | Cl.ClC=1C=C(C2=C(N(C(C(O2)C)=O)C)C1)C(=O)NC1CN2CCC1CC2 | InChI=1S/C18H22ClN3O3.ClH/c1-10-18(24)21(2)15-8-12(19)7-13(16(15)25-10)17(23)20-14-9-22-5-3-11(14)4-6-22;/h7-8,10-11,14H,3-6,9H2,1-2H3,(H,20,23);1H
